US06458989B1
At the top of the column, a mixture of water, butanol, butyl acetate and butyl acrylate was obtained which separated into an aqueous phase and an organic phase; after the addition of 300 ppm of phenothiazine, the organic phase was supplied as reflux to the column.

reactant | water | O | H2O
reactant | butanol | C(CCC)O | C4H10O
reactant | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
